US05990142
1B Ethyl 2-chromanecarboxylate
A solution of ethyl 4-oxo-4H-1-benzopyran-2-carboxylate (2.0 g, 9.17 mmol) in methanol (60 ml), chloroform (25 ml) and glacial acetic acid (20 ml) was added with 10% palladium-on-charcoal and the mixture was left under stirring at room pressure and temperature for 24 h. under hydrogen atmosphere. After that, the catalyst was filtered off and the filtrate was evaporated to dryness. The residue was redissolved in ethyl ether and washed successively with a 5% sodium bicarbonate solution and a sodium chloride saturated solution. The mixture was dried and the solvent was evaporated off under reduced pressure, to obtain 1.575 g of the title product (84% yield).

reactant | ethyl 4-oxo-4H-1-benzopyran-2-carboxylate | 9.17 mmol, 2.0 g | O=C1C=C(OC2=C1C=CC=C2)C(=O)OCC | C12H10O4
solvent | methanol | 60 ml | CO | CH4O
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Ethyl 2-chromanecarboxylate | 1.575 g, 84% yield | O1C(CCC2=CC=CC=C12)C(=O)OCC | C12H14O3
